* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
M1 N003 SWITCH N002 N002 Si4427DY
M2 N003 SWITCH N004 N004 Si4427DY
V1 N001 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
R1 N004 0 20
R2 N003 SWITCH 10000
C1 N003 SWITCH 0.1µ
V2 N008 0 PULSE(0 30 200ms 1u 1u 200ms 205ms 1)
D1 N008 N004 D
V3 SWITCH 0 PULSE(0 16 160ms 1u 1u 1 2 1)
R4 N002 N001 10
M3 N007 N009 N006 N006 Si4427DY
R3 N006 N005 100
R5 0 N007 100
V6 N009 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
V4 N005 0 16
M4 N012 N014 N011 N011 Si4427DY
M5 N012 N014 N013 N013 Si4427DY
R6 N011 N010 100
R7 0 N013 100
R8 N012 N014 10000
C2 N012 N014 0.1µ
V5 N010 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
V8 N014 0 16
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 500ms
.backanno
.end
